US08071597B2
Intermediate 28: Methyl 5-(aminosulfonyl)pyridine-2-carboxylate (Formula V)
6-Cyanopyridine-3-sulfonamide (10 g, 0.0545 mol) is dissolved in dry HCl in methanol (400 ml) at 25-26° C. under nitrogen atmosphere. Reaction mixture is heated to 50° C. and stirred for 15 h at 50° C. The reaction mixture is concentrated under vacuum and the residue obtained is diluted with water (100 ml) and basified with solid sodium bicarbonate to pH 6-7. The reaction mixture is stirred for 15 minutes and filtered. The resulting solid obtained is washed with water(50 ml) and dried under vacuum to afford the title compound (9 g, 76%) as light yellow solid. 1H NMR (DMSO-d6) δ 9.08 (d, J=3 Hz, 1H), 8.38 (dd, J=9 and 3 Hz, 1H), 8.26 (d, J=9 Hz, 1H), 7.79 (m, 2H), 3.93 (s, 3H). HPLC (max plot) 94%; Rt 3.45 min; LC/MS: (ES+) 216.9.

reactant | 6-Cyanopyridine-3-sulfonamide | 0.0545 mol, 10 g | C(#N)C1=CC=C(C=N1)S(=O)(=O)N | C6H5N3O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | 400 ml | CO | CH4O
solvent | HCl | Cl | ClH
solvent | water | 100 ml | O | H2O
product | Methyl 5-(aminosulfonyl)pyridine-2-carboxylate | 9 g, 76% | NS(=O)(=O)C=1C=CC(=NC1)C(=O)OC | C7H8N2O4S
